US04383945
To a solution of benzyl 4-[(2RS)-1-(tert-butyl-dimethylsilyl)-4-oxoazetidin-2-yl]but-2-enoate (50 mg) in 60% aqueous acetic acid (1.5 ml) were added tert-butyl-hydroperoxide (40 μl) and sodium tetrachloropalladate (18 mg). The solution was heated at 55° C. for 5.5 hours. Additional tert-butyl-hydroperoxide (100 μl) and sodium tetrachloropalladate (18 mg) were added and stirring at 50° C. was continued for further 11 hours. After evaporation of the solvent in vacuo, the residue was taken up into ethyl acetate and washed in turn with water (twice) and brine. Drying over magnesium sulfate and removal of the solvent left an oil (30 mg) which was chromatographed on a silica gel plate (developing solvent: 25% acetone in benzene) afforded benzyl 3-oxo-4-[(2RS)-4-oxoazetidin-2-yl]butanoate (13 mg).

reactant | benzyl 4-[(2RS)-1-(tert-butyl-dimethylsilyl)-4-oxoazetidin-2-yl]but-2-enoate | 50 mg | [Si](C)(C)(C(C)(C)C)N1C(CC1=O)CC=CC(=O)OCC1=CC=CC=C1 | C20H29NO3Si
reactant | tert-butyl-hydroperoxide | 40 μl | C(C)(C)(C)OO | C4H10O2
reactant | tert-butyl-hydroperoxide | 100 μl | C(C)(C)(C)OO | C4H10O2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
catalyst | sodium tetrachloropalladate | 18 mg | [Na+].[Na+].Cl[Pd+2](Cl)(Cl)Cl
catalyst | sodium tetrachloropalladate | 18 mg | [Na+].[Na+].Cl[Pd+2](Cl)(Cl)Cl
product | benzyl 3-oxo-4-[(2RS)-4-oxoazetidin-2-yl]butanoate | 13 mg | O=C(CC(=O)OCC1=CC=CC=C1)CC1NC(C1)=O | C14H15NO4
